US09238639B2
2-(6-((2,4-Dichlorobenzyl)oxy)-1-benzothiophen-3-yl)-N-(methylsulfonyl)acetamide
To a mixture of 2-(6-((2,4-dichlorobenzyl)oxy)-1-benzothiophen-3-yl)acetamide (73.3 mg) and THF (dry) (10 mL) was added sodium bis(trimethylsilyl)amide (0.158 ml, 1.9 M in toluene) at −78° C. The mixture was stirred at −40° C. under argon atmosphere for 30 min. And then methanesulfonyl chloride (34.4 mg) was added thereto. The resulting mixture was stirred at room temperature under argon atmosphere overnight. The mixture was poured into water and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (11.00 mg).

reactant | 2-(6-((2,4-dichlorobenzyl)oxy)-1-benzothiophen-3-yl)acetamide | 73.3 mg | ClC1=C(COC2=CC3=C(C(=CS3)CC(=O)N)C=C2)C=CC(=C1)Cl | C17H13Cl2NO2S
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | sodium bis(trimethylsilyl)amide | 1.9 M, 0.158 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methanesulfonyl chloride | 34.4 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
product | 2-(6-((2,4-Dichlorobenzyl)oxy)-1-benzothiophen-3-yl)-N-(methylsulfonyl)acetamide | 11.00 mg | ClC1=C(COC2=CC3=C(C(=CS3)CC(=O)NS(=O)(=O)C)C=C2)C=CC(=C1)Cl | C18H15Cl2NO4S2
